US07786108B2
Step 6. Preparation of (S)-9-[(3,5-Bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester
To a solution of (S)-9-[(3,5-bis-trifluoromethyl-benzyl)-cyano-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester (1.61 mmol) in toluene (10 mL), add azidotributyltin (3.22 mmol) and heat to 100° C. After stirring for 12 h, cool the reaction to room temperature and quench with methanol (1 mL). Dilute the reaction mixture with ethyl acetate (100 mL) and wash with aqueous sodium fluoride (50 mL) and brine (50 mL). Dry the organic portion over sodium sulfate, filter, and remove the solvent under vacuum. Chromatograph the product over silica gel, eluting with methanol/dichloromethane (1-5%) to afford the title compound as a colorless foam. MS (ES+): 597.3 (M−H).

reactant | (S)-9-[(3,5-bis-trifluoromethyl-benzyl)-cyano-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | 1.61 mmol | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)N(C#N)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H27F6N3O3
reactant | azidotributyltin | 3.22 mmol | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-9-[(3,5-Bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)N(C=2N=NNN2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H28F6N6O3
